US06506762B1
B. (2-{[2-(4-Methoxyphenyl)ethyl]amino}ethyl)[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]amine
Dissolve 2-(4-methoxyphenyl)-N-(2-{[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]aminoethyl)acetamide in anhydrous THF (5 mL) and stir under N2. Add borane-dimethylsulfide complex (0.2 mL, 10.0 M in THF) and heat to reflux for 14 h. Quench by addition of N,N′-dimethyl-1,2-ethylenediamine (0.21 mL) in MeOH (5 mL) and stir for 1 h at ambient temperature. Concentrate under reduced pressure and purify the residue by preparative TLC, eluting with 10% MeOH in CH2Cl2. Dissolve the residue in a minimum amount of MeOH then add HCl in EtOAc (2 mL) and triturate with Et2O to obtain the title compound as a solid (HCl salt)

reactant | 2-{[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]aminoethyl)acetamide | COC1=CC(=C(C(=C1)C)C1=CN(C=2C(=NC(=NC21)C)NCCCC(=O)N)C)C | C21H27N5O2
reactant | borane dimethylsulfide | 10.0 M, 0.2 mL | B.CSC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-{[2-(4-Methoxyphenyl)ethyl]amino}ethyl)[7-(4-methoxy-2,6-dimethylphenyl)-2,5-dimethylpyrrolo[2,3-e]pyrimidin-4-yl]amine | COC1=CC=C(C=C1)CCNCCNC1=NC(=NC2=C1N(C=C2C2=C(C=C(C=C2C)OC)C)C)C | C28H35N5O2
